US09302991B2
<Step-2>: 2-((3,4-dimethylisoxazol-5-yl)amino)-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (Example-536, single enantiomer)
The title compound is prepared from 2-chloro-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide (20 mg, 0.05 mmol, Step-1, single enantiomer) and 3,4-dimethylisoxazol-5-amine (12 mg, 0.1 mmol) according to the procedure similar to that described in Step-4 of Example 445.

reactant | 2-chloro-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carb oxamide | 0.05 mmol, 20 mg | ClC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F)C | C15H14ClF3N4O2
reactant | 3,4-dimethylisoxazol-5-amine | 0.1 mmol, 12 mg | CC1=NOC(=C1C)N | C5H8N2O
product | 2-((3,4-dimethylisoxazol-5-yl)amino)-6-methyl-N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | CC1=NOC(=C1C)NC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=CC1)OCC(F)(F)F)C | C20H21F3N6O3
